US05891909
b) 4-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]butyraldehyde
A solution of 4-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]butanol (85.7 mg, 0.23 mmol, as prepared in the preceding step), N,N-diisopropylethylamine (86 uL, 0.49 mmol), anhydrous dimethyl sulfoxide (50 uL, 0.70 mmol) and anhydrous dichloromethane (1 mL) was cooled to 0° C. under nitrogen. Sulfur trioxide pyridine complex was added in portions over 8 minutes. The solution was stirred at 0° C. for 3 hours and at ambient temperature for 1 hour. The reaction was diluted with dichloromethane (25 mL) and extracted with 5% aqueous citric acid (10 mL). The aqueous layer was extracted with dichloromethane (10 mL). The combined organic layers were washed with 5% aqueous citric acid (25 mL), and the aqueous layer was extracted. The combined organic layers were washed with pH 7 buffer (25 mL) and brine (25 mL) and dried over Na2SO4. The mixture was filtered, and the filtrate was concentrated to give the title compound as a colorless oil (86.0 mg, 100%). This product was used in the next step without purification. 1H-NMR (300 MHz, CDCl3) δ 9.81 (t, 1H, J=1.3 Hz), 7.82 (dd, 1H, J=1.7, 7.9 Hz), 7.62 (ddd, 1H, J=1.7, 7.4, 8.4 Hz), 7.09 (d, 1H, J=8.4 Hz), 6.99-7.05 (m, 1H), 6.55 (br s, 1H), 6.51 (br s, 1H), 6.42 (t, 1H, J=2 Hz), 4.02 (s, 3H), 3.88 (t, 2H, J=6.0 Hz), 2.62 (td, 2H, J=1.3, 7.0 Hz), 2.24 (s, 3H), 2.01-2.15 (m, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C18H20O6S: 387.1 (M+Na). Found: 387.0.

reactant | 4-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]butanol | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCCO)C=C(C1)C | C18H22O6S
reactant | N,N-diisopropylethylamine | 0.49 mmol, 86 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 0.70 mmol, 50 uL | CS(=O)C | C2H6OS
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]butyraldehyde | 86.0 mg, 100% | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCC=O)C=C(C1)C | C18H20O6S
